US05610144
The operation is carried out in a fashion similar to that described in Example 34, but starting from 2.0 g of tert-butyl (2R,4R) 3-(2-aminoacetyl)-2-phenyl-4-thiazolidinecarboxylate and 1.6 g of 4-chloro-3-trifluoromethylphenyl isocyanate. The crude product obtained is purified by chromatography on silica [eluent: ethyl acetate/cyclohexane (30/70 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. After vigorous stirring in 20 cm3 of hexane, 0.7 g of tert-butyl (2R,4R)-3-{2-[3-(4-chloro-3-tri-fluoromethylphenyl)ureido]acetyl}-2-phenyl-4-thiazolidinecarboxylate is thus obtained in the form of an amorphous powder, ([α]D20 =+58.2°±1.3° (C=0.49%; CH3OH), [proton NMR (250 MHz, DMSO D6, δ in ppm, J in Hz), 2 rotamers at room temperature, peak coalescence at 130° C., characteristic chemical shifts at 130° C.: 1.53 (s, 9H, --C(CH3)3); 3.29 and 3.47 (2dd, J=12.5 and 6.5, 2H, S--CH2 --); 3.73 (broad, 1H, of N--COCH2 --N); 4.10 (dd, J=17.5 and 4, 1H, the other H of N--COCH2 --N); 5.0 (broad, 1H, N--CH--COO); 6.33 (broad, 1H, --NHCO--); 6.4 (s, 1H, S--CH--N); 7.2 to 7.8 (m, 7H, aromatic); 7.97 (bs, 1H, in position 2 on CO--NH--Ph); 8.98 (broad, 1H, --CO--NH--Ph), [infrared spectrum (KBr), characteristic bands in cm-1 : 3375, 2980, 2930, 2875, 1740, 1640, 1595, 1550, 1485, 1455, 1370, 1325, 1175, 1150, 895, 730, 695].

reactant | tert-butyl (2R,4R) 3-(2-aminoacetyl)-2-phenyl-4-thiazolidinecarboxylate | 2.0 g | NCC(=O)N1[C@H](SC[C@H]1C(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H22N2O3S
reactant | 4-chloro-3-trifluoromethylphenyl isocyanate | 1.6 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | tert-butyl (2R,4R)-3-{2-[3-(4-chloro-3-tri-fluoromethylphenyl)ureido]acetyl}-2-phenyl-4-thiazolidinecarboxylate | 0.7 g | ClC1=C(C=C(C=C1)NC(NCC(=O)N1[C@H](SC[C@H]1C(=O)OC(C)(C)C)C1=CC=CC=C1)=O)C(F)(F)F | C24H25ClF3N3O4S
